US05286753
Bis-triphenylphosphine palladium dichloride (120 mg) was added to a solution of 2-dipropylamino-8-trimethylstannyl-1,2,3,4-tetrahydronaphthalene (500 mg, 1.27 mmol) in benzene (20 ml). Methoxyacetyl chloride (1.5 ml; 1.77 g; 16.5 mmol) was added. The reaction mixture was stirred at room temperature overnight and then heated to reflux for 5 hr. The reaction mixture was poured into water and extracted with methylene chloride. The extract was dried (MgSO4) and concentrated to give 800 mg of crude product. Purification by chromatography using 1:10 methanol: methylene chloride as solvent gave 380 mg of 2-di-n-propylamino-8-methoxyacetyl-1,2,3,4-tetrahydronaphthalene.

reactant | 2-dipropylamino-8-trimethylstannyl-1,2,3,4-tetrahydronaphthalene | 1.27 mmol, 500 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)[Sn](C)(C)C)CCC
reactant | Methoxyacetyl chloride | 16.5 mmol, 1.5 ml, 1.77 g | COCC(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-di-n-propylamino-8-methoxyacetyl-1,2,3,4-tetrahydronaphthalene | 380 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)C(COC)=O)CCC | C19H29NO2
